* D:\LTSpice\pedal-circuits\triggerSchmittFuzz-trialAndError.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 0 N001 N004 0 N002 LT1001 ;§pnba In+)In-)V+)V-)OUT
VCC N004 0 9V
V1 N005 0 SINE(0 0.5V 80Hz)
R1 N001 N003 10k
R3 0 N002 1
Q1 N003 N005 N006 0 2N2222
R4 N006 0 10
R6 N004 N003 1k
VCC1 N019 0 9V
V2 N023 0 SINE(0 1.2V 80Hz)
R7 N016 N015 100k
D3 N002 N001 1N914
D4 N001 N002 1N914
R2 N002 N001 1k
R10 N003 N005 100
R9 N004 N003 1Meg
R11 N003 0 200k
X§U3 0 N008 N018 0 N009 LT1001 ;§pnba In+)In-)V+)V-)OUT
VCC2 N018 0 9V
R12 N008 N021 1K
R13 0 N009 1
D5 N009 N008 1N914
D6 N008 N009 1N914
R14 N009 N008 10k
V4 N020 0 SINE(0 1.2V 80Hz)
X§U4 N020 N022 N018 0 N021 LT1001 ;§pnba In+)In-)V+)V-)OUT
R15 N021 N022 900
R16 N022 0 100
D1 N016 N015 1N914
D2 N015 N016 1N914
C1 0 N015 12n
R5 N015 N023 10k
X§U5 N015 0 N019 0 N016 LT1001 ;§pnba In+)In-)V+)V-)OUT
R8 0 N016 100k
V3 N012 0 SINE(0 1.2V 80Hz)
C2 N013 0 10n
V5 N007 0 9V
V6 0 N014 9V
X§U2 N013 N010 N007 N014 N011 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R17 N013 N012 10k
R18 N010 0 10k
R19 N017 N010 20k
R20 0 N017 40k
R21 N017 N011 30k
R22 N011 0 100k
V7 N028 0 SINE(0 1.2V 80Hz)
C3 N029 0 10n
V8 N024 0 9V
V9 0 N030 9V
X§U6 N029 N027 N024 N030 N025 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R23 N029 N028 10k
R28 N026 0 100k
R26 N031 N027 50k
D7 N026 N025 1N914
D8 N025 N026 1N914
R24 N031 0 20k
R25 N027 0 10k
R27 N025 N031 70k
V10 N036 0 SINE(0 1.2V 80Hz)
C4 N037 0 10n
V11 N032 0 9V
V12 0 N038 9V
X§U7 N037 N035 N032 N038 N033 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R29 N037 N036 10k
R30 N034 0 100k
R31 N033 N035 50k
D9 N034 N033 1N914
D10 N033 N034 1N914
R32 N035 0 2.5k
.model D D
.lib C:\Users\adeli\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\adeli\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0.2s
.inc ua741.lib
* <- the good one mancatias
* Library below included based on ModelFile attribute of instance X§U1, X§U3, X§U4, X§U5 (C:\Users\adeli\AppData\Local\LTspice\lib\sym\OpAmps\OP07.asy)
.lib LTC.lib
* Library below included based on ModelFile attribute of instance X§U2, X§U6, X§U7 (C:\Users\adeli\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
